US06297258B1
4-[Bis-(2-hydroxy-propyl)-amino]-but-2-enoic Acid[4-(3-chloro-4-fluoro-phenylamino)-3-cyano-7-methoxy-quinolin-6-yl]-amide
A mixture of 250 mg (0.51 mmol) of 4-bromo-but-2-enoic acid[4-(3-chloro-4-fluoro-phenylamino)-3-cyano-7-methoxy-quinolin-6-yl]-amide, and 136 mg (1.02 mmol) of 1,1′-iminodi-2-propanol in 2.25 ml dimethylformamide was stirred at room temperature for 3 hr and at 60° C. for 2 hr. After the mixture was cooled, saturated sodium bicarbonate solution was added and the solution was subsequently extracted with ethyl acetate. The extracts were evaporated to an oil, washed with hexane and dried under reduced pressure. Yield 240.1 mg (87%) tan solid: mp 122-125° C.

reactant | 4-bromo-but-2-enoic acid[4-(3-chloro-4-fluoro-phenylamino)-3-cyano-7-methoxy-quinolin-6-yl]-amide | 0.51 mmol, 250 mg | ClC=1C=C(C=CC1F)NC1=C(C=NC2=CC(=C(C=C12)NC(C=CCBr)=O)OC)C#N | C21H15BrClFN4O2
reactant | 1,1′-iminodi-2-propanol | 1.02 mmol, 136 mg | N(CC(C)O)CC(C)O | C6H15NO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 2.25 ml | CN(C=O)C | C3H7NO
product | 4-[Bis-(2-hydroxy-propyl)-amino]-but-2-enoic Acid[4-(3-chloro-4-fluoro-phenylamino)-3-cyano-7-methoxy-quinolin-6-yl]-amide | ClC=1C=C(C=CC1F)NC1=C(C=NC2=CC(=C(C=C12)NC(C=CCN(CC(C)O)CC(C)O)=O)OC)C#N | C27H29ClFN5O4
